** sch_path: /foss/designs/Book-on-gm-ID-design/starter_files_open_source_tools/ihp-sg13cmos5l/techsweep_sg13_lv_pmos_rf.sch
**.subckt techsweep_sg13_lv_pmos_rf
Hn 0 n vd 1
vg 0 g DC 0.6 AC 1
vd 0 d 0.6
vb 0 b 0
XM1 d g 0 b sg13_lv_pmos w={wx} l={lx} ng=1 m=1 rfmode=1 mm_ok=1
**** begin user architecture code



.save @n.xm1.nsg13_lv_pmos[cdd]
.save @n.xm1.nsg13_lv_pmos[cgb]
.save @n.xm1.nsg13_lv_pmos[cgd]
.save @n.xm1.nsg13_lv_pmos[cgdol]
.save @n.xm1.nsg13_lv_pmos[cgg]
.save @n.xm1.nsg13_lv_pmos[cgs]
.save @n.xm1.nsg13_lv_pmos[cgsol]
.save @n.xm1.nsg13_lv_pmos[cjd]
.save @n.xm1.nsg13_lv_pmos[cjs]
.save @n.xm1.nsg13_lv_pmos[css]
.save @n.xm1.nsg13_lv_pmos[gds]
.save @n.xm1.nsg13_lv_pmos[gm]
.save @n.xm1.nsg13_lv_pmos[gmb]
.save @n.xm1.nsg13_lv_pmos[ids]
.save @n.xm1.nsg13_lv_pmos[l]
.save @n.xm1.nsg13_lv_pmos[sfl]
.save @n.xm1.nsg13_lv_pmos[sid]
.save @n.xm1.nsg13_lv_pmos[vth]
.save @vb[dc]
.save @vd[dc]
.save @vg[dc]
.save onoise.m.xm1.nsg13_lv_pmos.id
.save onoise.m.xm1.nsg13_lv_pmos.1overf
.save g d b n





.param wx=5u lx=0.72u
.op

.control
option numdgt = 3
set wr_singlescale
set wr_vecnames

compose l_vec  values 0.72u 0.73u 0.74u 0.75u 0.76u 0.77u 0.78u 0.79u
+ 0.8u 0.9u 1u 2u 3u 4u 5u
compose vg_vec start= 0 stop=1.201  step=25m
compose vd_vec start= 0 stop=1.201  step=25m
compose vb_vec start= 0 stop=-0.4 step=-0.2

foreach var1 $&l_vec
  alterparam lx=$var1
  reset
  foreach var2 $&vg_vec
    alter vg $var2
    foreach var3 $&vd_vec
      alter vd $var3
      foreach var4 $&vb_vec
        alter vb $var4
        run
        wrdata techsweep_sg13_lv_pmos_rf.txt all
        destroy all
        set appendwrite
        unset set wr_vecnames
      end
    end
  end
end
unset appendwrite

alterparam lx=0.13u
reset
op
show
write techsweep_sg13_lv_pmos_rf.raw
.endc





.lib cornerMOSlv.lib mos_tt


**** end user architecture code
**.ends
.end
